US08071595B2
To a stirred solution of 1-methyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one (200 mg, 0.49 mmol) in AcN (10 mL) was added DBU (224.5 mg, 1.47 mmol) dropwise and then the reaction mixture was stirred for 6 h under a continuous flow of oxygen. The reaction mixture was quenched with 1N HCl and extracted with EtOAc (2×20 mL). The organic layer was washed with brine, dried over anhydrous Na2SO4, and concentrated in vacuo to afford 1-methyl-3-(pyridin-4-yl)-4-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrole-2,5-dione (100 mg, 48%) as a solid. 1H NMR (500 MHz, CDCl3): δ 8.18-8.09 (m, 1H), 8.0-7.95 (m, 3H), 7.65-7.59 (m, 3H), 7.48-7.39 (m, 1H), 7.28-7.18 (m, 4H), 7.1-7.09 (m, 2H), 5.25 (s, 2H), 2.86 (s, 3H);

reactant | 1-methyl-4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrol-2(5H)-one | 0.49 mmol, 200 mg | CN1C(C(=C(C1)C1=CC=NC=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C26H21N3O2
reactant | DBU | 1.47 mmol, 224.5 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | oxygen | O=O | O2
product | 1-methyl-3-(pyridin-4-yl)-4-(4-(quinolin-2-ylmethoxy)phenyl)-1H-pyrrole-2,5-dione | 100 mg, 48% | CN1C(C(=C(C1=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=NC=C1)=O | C26H19N3O3
